Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / doxycycline / Flagyl / Bactrim / fentanyl
 
Attending: ___.
 
Chief Complaint:
Fatigue, Failure to Thrive
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
 Ms. ___ is a ___ woman with stage IVB high-grade
Mullerian carcinoma w/ peritoneal involvement and mets to liver,
and bone complicated by tumor-enteric fistula, pelvic abscess,
and B. fragilis bacteremia s/p neoadjuvant carboplatin and
paclitaxel (per ___ followed by interval cytoreductive
surgery then 2 cycles ___ with recurrence, started on
single-agent doxorubicin, now completed 3 cycles and palliative
radiation therapy to hip/spine and WBRT for
carvarial/pachymeningeal disease, who was planned to start
pemetrexed, but has been thrombocytopenic, and who presented to
___ on ___ w/weakness and dehydration.

 On arrival to the floor,  she appears well. She says that she
felt well last ___. But on ___ and yesterday, she felt 
very
tired and unable to do any basic chores around the house. She
visited ___ ER for fatigue. Re: Dehydration, she feels
like she is doing well. She drinks enough liquids and her urine
color is pale yellow. Other than general tiredness, she has no
focal symptoms.

 
 REVIEW OF SYSTEMS:  
 A complete 10-point review of systems was performed and was
negative unless otherwise noted in the HPI.  
 
Past Medical History:
PMH:
- Lyme disease ___
- history of benign dura mater turmor as child
- Denies hypertension, diabetes, cardiovascular disease, asthma,
thromboembolic disease

PSH: 
- ganglion cyst excision
- benign dura mater tumor excision 
- abdominoplasty
- breast implants

POB: G0

PGYN: 
- LMP ___, denies postmenopausal bleeding
- Not currently sexually active 
- Bioidentical hormonal replacement therapy for ___ years
perimenopause
- Remote history of abnormal Pap smear in her ___, unsure if 
LEEP
was performed; last Pap ___ neg per patient
- Denies history of pelvic infections or sexually transmitted
infections
- Denies history of fibroids or cysts
 
Social History:
___
Family History:
- Maternal grandmother with breast cancer diagnosed age ___, died 
of stroke
- No known family history of uterine, ovarian, cervical or colon 
cancer
 
Physical Exam:
ADMISSION PE:

 Vitals:  106/70. t98.4. 98% on RA. HR 103.
 GENERAL:  comfortable
 HEENT:  NC AT. NAD
 NECK:  Soft NT ND
 LUNGS:  CTAB. No crackles or wheezes
 CV:  RRR s1 and S2 normal. No MRG
 ABD:  Soft NT
 EXT:  No edema
 SKIN:  WNL
 NEURO:  No focal deficits
 ACCESS:  R port (not accessed at this time)

DISCHARGE PE:

Deceased
 
Pertinent Results:
Deceased
 
Brief Hospital Course:
___ with stage IVB high-grade Mullerian carcinoma w/ peritoneal 
involvement and mets to liver, and bone complicated by 
tumor-enteric fistula, pelvic abscess, and B. fragilis 
bacteremia s/p neoadjuvant carboplatin and paclitaxel (per 
___ followed by interval cytoreductive surgery then 2 cycles 
___ with recurrence, started on
single-agent doxorubicin, now completed 3 cycles and palliative 
radiation therapy to hip/spine and WBRT for 
carvarial/pachymeningeal disease, who was planned to start
pemetrexed, but has been thrombocytopenic, and who presented to 
___ on ___ w/weakness and dehydration subsequently 
transferred to ___. Dehydration improved with pain. 
Thrombocytopenia persistent, however main issue became pain 
control. Meeting held with primary oncologist and decision made 
to transition to DNR/DNI, however the patient developed 
worsening pain lactic acidosis, as well as concern for rapid 
progression of her baseline disease. After discussions with 
primary team, decision made to transition patients care to CMO. 
She passed at 955AM on ___ with her family at her bedside. 
Autopsy declined. Outpatient providers and oncology team 
informed.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FoLIC Acid 1 mg PO DAILY 
2. Mirtazapine 15 mg PO QHS 
3. Ondansetron 4 mg PO Q8H:PRN nausea 
4. Prochlorperazine 5 mg PO Q8H:PRN  nausea use second, if 
ondansetron not effective 
5. LORazepam 0.5-1 mg PO Q4H:PRN anxiety/insomnia 
6. Senna 8.6 mg PO BID:PRN  constipation 
7. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 

 
Discharge Medications:
None-deceased
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Deceased
 
Discharge Condition:
Deceased
 
Discharge Instructions:
N/A
 
Followup Instructions:
___